US08242139B2
1-(4-chloro-3-fluorophenyl)cyclobutanol
To a cold (−78° C.) solution of 4-bromo-1-chloro-2-fluorobenzene (2.99 g, 14.27 mmol) in tetrahydrofuran (50 mL) was added n-butyllithium (5.71 mL, 14.27 mmol, 2.5 m in hexane) over 5 minutes. The reaction was stirred at −78° C. for 15 min, and cybutanone (1.0 g, 14.27 mmol) was added dropwise. After 15 minutes, the reaction mixture was quenched by the addition of saturated aqueous of NH4Cl (50 mL) and diethyl ether (50 mL). The layers were separated, and the aqueous was extracted with additional diethyl ether (2×50 mL). The combined organic layers were dried with anhydrous Na2SO4, filtered concentrated under reduced pressure. The residue was purified by RP-HPLC (preparative reversed-phase high pressure liquid Chromatography) using a Zorbax SB-C18 7M 21.2×250 mm column with UV detection analyzed at 220 and 254 nM (preparative method: water with 0.1% trifluoroacetic acid and CH3CN with 0.1% trifluoroacetic acid gradient 5-95% CH3CN over 30 minutes at 15 mL/min) to provide the title compound as a solid. MS (ESI) m/z 201[M+H]+.

reactant | 4-bromo-1-chloro-2-fluorobenzene | 14.27 mmol, 2.99 g | BrC1=CC(=C(C=C1)Cl)F | C6H3BrClF
reactant | n-butyllithium | 14.27 mmol, 5.71 mL | C(CCC)[Li]
reactant | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
product | 1-(4-chloro-3-fluorophenyl)cyclobutanol | ClC1=C(C=C(C=C1)C1(CCC1)O)F | C10H10ClFO
